US05466689
4,6,6a,8,9,10a-Hexahydro-10a-methyl-7-(2-phenoxyethyl)-7H-indolo[3,4-gh][1.4]benzoxazine
To a solution of 4,6,6a,8,9,10a-hexahydro-10a-methyl-7H-indolo[3,4-gh][1.4]benzoxazine (85 mg, 0.37 mmol) in DMF (5 ml) were added potassium carbonate (255 mg, 1.9 mmol) and 1-iodo-2-phenoxyethane (99 mg, 0.4 mmol). The mixture was heated at 60° C for 24 hours. After completion of the reaction, the reaction mixture was added to a mixture of ice water and ethyl acetate. The organic layer was separated, washed with a saturated aqueous saline solution and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was subjected to a silica gel column chromatography, eluting with n-hexane-ethyl acetate (2:1), to afford 59 mg (46%) of the title compound as an amorphous crystalline product.

reactant | 4,6,6a,8,9,10a-hexahydro-10a-methyl-7H-indolo[3,4-gh][1.4]benzoxazine | 0.37 mmol, 85 mg | CC12C(NCCO1)CC=1C3=C2C=CC=C3NC1 | C14H16N2O
reactant | potassium carbonate | 1.9 mmol, 255 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-iodo-2-phenoxyethane | 0.4 mmol, 99 mg | ICCOC1=CC=CC=C1 | C8H9IO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4,6,6a,8,9,10a-Hexahydro-10a-methyl-7-(2-phenoxyethyl)-7H-indolo[3,4-gh][1.4]benzoxazine | 59 mg, 46% | CC12C(N(CCO1)CCOC1=CC=CC=C1)CC=1C3=C2C=CC=C3NC1 | C22H24N2O2
